US07795253B2
4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)benzonitrile
A solution of 1.20 mmol of 2-[(4-cyanophenyl)-(3H-imidazol-4-yl)methoxy]ethyl methanesulphonate in 10 ml of acetonitrile is heated to reflux for 24 hours. The reaction mixture is cooled to room temperature and evaporated. The title compound is obtained as a white solid from the residue by flash chromatography (SiO2 60F). Rf=0.14 (dichloromethane -2M ammonia in ethanol 95:5); Rt=4.29.

reactant | 2-[(4-cyanophenyl)-(3H-imidazol-4-yl)methoxy]ethyl methanesulphonate | 1.20 mmol | CS(=O)(=O)OCCOC(C=1NC=NC1)C1=CC=C(C=C1)C#N | C14H15N3O4S
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(5,6-Dihydro-8H-imidazo[5,1-c][1,4]oxazin-8-yl)benzonitrile | C=1N=CN2C1C(OCC2)C2=CC=C(C#N)C=C2 | C13H11N3O
